US03953291
120 ml of the immobilized preparation of Escherichia coli ATCC 9637 are charged into a 2.1 cm × 34.8 cm column. 500 ml of an aqueous 1 % potassium Penicillin G solution (pH 9.0) are passed through the column at 40°C at the flow rate of 16 ml/hr. The effluent tus obtained is adjusted to pH 2.0 with 2N-hydrochloric acid and washed twice with 10 ml of methylisobutylketone to remove phenylacetic acid. The aqueous layer is again adjusted to pH 7.0 with 2N-sodium hydroxide. Then, the aqueous layer is concentrated at 50°C under reduced pressure to bring its total volume to 5 ml. After adjusting to pH 4.3 with 2N-hydrochloric acid, the concentrated solution is allowed to stand at 27°C overnight. The crystalline precipitate is collected by filtration and dried at 50°C under reduced pressure. 2.23 g of 6-APA are obtained. Yield: 85 % M.p. 204° - 207°C (decomp.)

reactant | potassium Penicillin G | pH 9.0 | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)NC(=O)CC3=CC=CC=C3)C(=O)[O-])C.[K+]
reactant | hydrochloric acid | Cl | ClH
product | 6-APA | 2.23 g, Yield: 85 % | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)N)C(=O)O)C | C8H12N2O3S
